US05143910
To a solution of 2,5-dichloro-3,4-bis(p-methoxybenzyloxy)benzoic acid (2.02 g: 4.36 mMol.) and 1-hydroxybenzotriazole (648 mg: 1.1 Eq.) in tetrahydrofuran (40 ml) is added dicyclohexylcarbodiimide (990 mg: 1.1 Eq.), and the mixture is stirred at room temperature for 90 minutes. This solution is mixed with N-methylpiperazine (0.66 g: 1.5 Eq.) and stirred at room temperature for 1 hour. The reaction mixture is filtered to remove solid and concentrated under reduced pressure. The residue is purified by silica gel chromatography to give 1-(2,5-dichloro-3,4-bis(p-methoxybenzyloxy)benzoyl)-4-methylpiperazine (1.7 g) from the fraction eluting with 5% methanol-chloroform. Yield: 71%.

reactant | 2,5-dichloro-3,4-bis(p-methoxybenzyloxy)benzoic acid | 4.36 mMol, 2.02 g | ClC1=C(C(=O)O)C=C(C(=C1OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)Cl | C23H20Cl2O6
reactant | 1-hydroxybenzotriazole | 648 mg, 1.1 Eq. | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 990 mg, 1.1 Eq. | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-methylpiperazine | 0.66 g, 1.5 Eq. | CN1CCNCC1 | C5H12N2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 1-(2,5-dichloro-3,4-bis(p-methoxybenzyloxy)benzoyl)-4-methylpiperazine | 1.7 g, Yield: 71% | ClC1=C(C(=O)N2CCN(CC2)C)C=C(C(=C1OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)Cl | C28H30Cl2N2O5
